Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Codeine / morphine / Dilaudid
 
Attending: ___
 
Chief Complaint:
Exercise Intolerance in Lower Extremity now progressed to Upper 
Extremities
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo. w/PMH of LBP d/t DDD s/p L5-S1 laminectomy in ___ and 
morbid obesity, now complaining of progressive proximal 
weakness. Pt noticed weakness in her legs, and a sore & achy 
feeling in her legs about 1 month ago. She initially attributed 
this to straining her back after lifting a mattress. This she 
initially iced, and it gradually resolved, especially since 
recent prescription of tizanidine, although pt also had one 
recent ED visit for sciatica, which now has almost stopped 
bothering her. However, pt's weakness-related symptoms have 
progressed, especially over the last few days to the point where 
she feels she has to stop walking after ___ minutes because her 
leg muscles get progressively weaker and sorer if she goes on, 
she feels like she is working out hard, and she feels like her 
legs might give out on her (though she has not fallen). She has 
not had cramps. Walking up stairs also is difficult, and she has 
to stop every few steps on the way up to her ___ 
apartment. Over the last ___ days, pt has also noticed weakness 
and soreness
in her arms, e.g., has to switch hands every couple of minutes 
when holding the phone up during a phone conversation. By 
history, all her weakness is proximal, there is no distal 
weakness and she has not been dropping things. There are also no 
sensory symptoms, and no impairment of bowel or bladder 
function. Pt is very worried about the progression of her 
symptoms, and is
concerned about "ending up in a wheelchair", or "waking up being 
unable to move". 
 
On neurologic ROS, no headache / lightheadedness / confusion / 
syncope / seizures / difficulty with producing or comprehending 
speech / amnesia / concentration problems; no loss of vision / 
blurred vision / amaurosis / diplopia / vertigo, tinnitus, 
hearing difficulty, dysarthria, or dysphagia. No muscle 
weakness. No loss of sensation / numbness / tingling.  No 
difficulty with gait/balance problems/falls.

On general ROS, no fevers / chills / rigors / night sweats / 
anorexia / weight loss. No chest pain / palpitations / dyspnea / 
exercise intolerance / cough. No
nausea / vomiting / diarrhea / constipation / abdominal pain. No 
dysuria / hematuria, and no bowel or bladder incontinence / 
retention / hesitancy. No myalgias / arthralgias / rash. 
 
Past Medical History:
- HTN
- DDD s/p L5-S1 laminectomy in ___
- Idiopathic hyperhidrosis
- Sphincter of Oddi dysfunction
- S/p cholecystectomy
- Depression
- Obesity
- Exercise-induced asthma
- Migraine w/o aura

 
Social History:
___
Family History:
Children: none
Siblings: sister healthy
___: healthy
Grandparents: paternal grandfather deceased in ___ paternal
grandmother alive in ___ maternal grandfather w/CAD,
hyperlipidemia, s/p 3 open-heart surgeries; maternal grandmother
w/HTN
There is an uncle with schizophrenia
No other family history of migraine/epilepsy/dementia/movement
disorders/mental retardation or cognitive delay/nerve or muscle
problems

 
Physical Exam:
VS T:97 HR:110 BP:122/69 RR: 18 SaO2: 97%

General: NAD, lying in bed comfortably. Diaphoretic.
- Head: NC/AT, no conjunctival pallor or icterus, no
oropharyngeal lesions 
- Neck: Supple, no nuchal rigidity. No lymphadenopathy or
thyromegaly.
- Cardiovascular:  carotids with normal volume & upstroke; RRR,
no M/R/G 
- Respiratory: Nonlabored, clear to auscultation with good air
movement bilaterally. Able to count to 42 in one breath.
- Abdomen: obese but nondistended, no
tenderness/rigidity/guarding
- Extremities: Warm, no cyanosis/clubbing/edema. No synovitis of
elbows/wrists/fingers. 
- Skin: Intact skin, hair, nails and nail folds. No rashes or
lesions. No stigmata of dermatomyositis.

Neurologic Examination:

Mental Status:  Awake, alert, oriented x 3. Recalls a coherent
history. Concentration maintained when recalling months
backwards. Language fluent without dysarthria and with intact
repetition and verbal comprehension. No paraphasic errors.
Follows two-step commands, midline and appendicular. High- and
low-frequency naming intact. Normal reading. Normal prosody.
Registration ___ and recall ___. No ideomotor apraxia or 
neglect.
Normal performance on Luria hand sequencing.

Cranial Nerves: 
[II] Pupils: equal in size and briskly reactive to light and
accomodation.  
VF full to number counting/finger motion/red pin. 
Funduscopy: discs flat with crisp disc margins (no papilledema),
normal color. Arteries & veins normal without arteriolar
narrowing or venous engorgement, no crossing changes observed. 
On limited exam, no other retinal or optic disc lesions seen. 
[III, IV, VI] EOM intact, no nystagmus
No ptosis with sustained upgaze (though pt complained of some
blurring after a while)
[V] V1-V3 with symmetrical sensation to cold. Pterygoids 
contract
normally. 
[VII] No facial asymmetry. 
[VIII] Hearing grossly intact.  
[IX, X] Palate elevation symmetric. 
[XI] SCM and trapezius strength ___ bilaterally. 
[XII] Tongue midline and moves facilely, with symmetric
resistance when pressed against cheek.

Motor: Normal bulk and tone. No pronation or drift. No tremor or
asterixis. Repetitive muscle exercise of deltoids elicited 
muscle
soreness but no exacerbation of weakness.

[ Direct Confrontational Strength Testing ]

Neck Flexors 5
Neck Extensors 5

Arm
Deltoids [R 4+] [L 4+]
Biceps  [R 5] [L 5]
Triceps  [R 5] [L 5]
Extensor Carpi Radialis [R 5] [L 5]
Finger Extensors [R 5] [L 5]
Finger Flexors  [R 5] [L 5]

Leg
Iliopsoas [R 4+] [L 4+]
Quadriceps [R 5] [L 5]
Hamstrings [R 4+] [L 4+]
Tibialis Anterior [R 5] [L 5]
Gastrocnemius [R 5] [L 5]
Extensor Hallucis Longus  [R 5] [L 5]

Sensory: 
Intact proprioception and vibration at halluces bilaterally. No
deficits to pinprick testing on extremities and trunk. No
extinction to double simultaneous stimulation. 

Reflexes

[Bic] [Tri] [___] [Quad] [Ankle]

L ___ 2 2

R ___ 2 2

Plantar response flexor bilaterally.

Coordination: No rebound. No past-pointing when touching own 
nose
with finger, with eyes closed. No dysmetria on finger-to-nose 
and
heel-knee-shin testing. No dysdiadochokinesia. Forearm rolling
symmetric. Finger tapping on crease of thumb, and sequential
finger tapping symmetric. 

Gait: Normal initiation. Narrow base. Normal stride length and
arm swing. Stable stance without sway. No Romberg. Intact heel,
toe, and tandem gait. 

 
Pertinent Results:
___ 05:20PM   TSH-2.9
___ 05:20PM   T4-6.4 T3-127
___ 03:40PM   GLUCOSE-140* UREA N-11 CREAT-0.7 SODIUM-137 
POTASSIUM-4.0 CHLORIDE-104 TOTAL CO2-25 ANION GAP-12
___ 03:40PM   ALT(SGPT)-79* AST(SGOT)-71* CK(CPK)-194 ALK 
PHOS-61 TOT BILI-0.4
___ 03:40PM   CRP-6.0*
___ 03:40PM   C3-145 C4-19
___ 03:40PM   SED RATE-10
___ 11:15PM   CK(CPK)-240*

___ EMG IMPRESSION: 
Abnormal study. The electrophysiologic findings are consistent 
with a disorder of neuromuscular transmission; and the overall 
electrophysiologic picture is most suggestive of a postsynaptic 
disorder, as in myasthenia ___. There is no evidence for a 
generalized myopathy. 

___ CT CHEST IMPRESSION: 
Prominent thymus gland, with quadrilateral, bulging convex 
margins and predominance of soft tissue attenuation.  The 
maximal thymic lobe thickness of 2.0 cm is within two standard 
deviations of normal for a quadrilateral-shaped thymus in a 
female patient of this age, according to recent normative CT 
data published by ___ et al (radiology, published ahead of 
print, ___.  However, there is overlap between CT 
features of prominent normal thymus tissue and  thymic 
hyperplasia. 

___ MR ___ SPINE W/O CONTRAST IMPRESSION:

 
Brief Hospital Course:
___ yo. w/PMH of LBP d/t DDD s/p L5-S1 laminectomy in ___, now 
complaining of progressive proximal weakness. Pt noticed 
weakness in her legs, and a sore & achy feeling in her legs 
about 1 month ago. She initially attributed this to straining 
her back after lifting a mattress. These symptoms have 
progressed over the last few days to the point where she feels 
she has to stop walking after ___ minutes because her leg 
muscles get progressively weaker and sorer if she goes on, she 
feels like she is working out hard, and she feels like her legs 
might give out on her (though she has not fallen). Walking up 
stairs also is difficult, and she has to stop every few steps on 
the way up to her ___ appartment. Over the last ___ days, 
pt has also noticed weakness and soreness in her arms, e.g., has 
to switch hands every couple of minutes when holding the phone 
up during a phone conversation. 

# Weakness / Exercise Intolerance:
We performed an EMG study including single fiber for 
myopathy/myasthenia which were strongly suggestive of Myasthenia 
___. ESR, C3/C4 were WNL, CRP was elevated to 6.  TSH was 
slightly elevated, T4,T3 were WNL. ___, Anti-dsDNA 
were sent and pending.  

CT scan of the Chest revealed mass concerning for Thymoma for 
which thoracic surgery was consulted.  MRI performed for better 
visualization to aid in possible resection.  Neuromuscular 
formal consult for pre-operative management recommended starting 
Mestinon, CellCept and Bactrim PPx.

# Lower Back Pain:
Tizanidine, Gabapentin, Ibuprofen were all continued.

# Hypertension:
Home Toprol XL was continued and ECG showed NSR.

# Depression:
Duloxetine was continued as well as Benztropine for any 
hyperhidrosis with good effect.  

# Migraine:
Also Prochlorperazine was continued for any Migrainous pain.
 
Medications on Admission:
- Albuterol PRN
- Benztropine 1 mg daily PRN sweating (takes once or twice per
week)
- Clonidine 0.1 mg daily (for nightmares)
- Duloxetine ___ 60 mg daily (for depression)
- Gabapentin 600 mg BID (for anxiety)
- Hyoscyamine sulfate (Levsin) 0.125 mg SL daily PRN abdominal
pain (takes very rarely)
- Jolessa (E+P OCP) daily
- LZP 1 mg PO daily PRN (occasionally)
- Metoprolol succinate ER 25 mg daily (HTN)
- Prochlorperazine 5 mg PRN migraine (takes about every 2 weeks)
- Tizanidine ___ mg up to TID PRN back spasms (new script, has
been taking as it helps)
- Trazodone 100 mg qhs
 
Discharge Medications:
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN dyspnea 
2. Benztropine Mesylate 1 mg PO DAILY:PRN sweating 
3. CloniDINE 0.1 mg PO DAILY 
4. Duloxetine 60 mg PO DAILY 
5. Gabapentin 600 mg PO BID 
6. Jolessa *NF* (levonorgestrel-ethinyl estrad) 0.15-30 mg-mcg 
Oral daily 
7. Lorazepam 0.5-1 mg PO Q8H:PRN anxiety 
8. Metoprolol Succinate XL 25 mg PO DAILY 
9. Prochlorperazine 5 mg PO Q6H:PRN migraine 
10. Tizanidine 2 mg PO TID 
11. traZODONE 100 mg PO HS 
12. Mycophenolate Mofetil 500 mg PO BID 
Increase to 2 tabs BID in 2 weeks (___) 
RX *mycophenolate mofetil 500 mg ___ tablet(s) by mouth twice a 
day Disp #*120 Tablet Refills:*2
13. Pyridostigmine Bromide 30 mg PO Q8H 
RX *pyridostigmine bromide 60 mg 0.5 (One half) tablet(s) by 
mouth Three times daiy Disp #*90 Tablet Refills:*2
14. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
RX *sulfamethoxazole-trimethoprim 400 mg-80 mg 1 tablet(s) by 
mouth daily Disp #*30 Tablet Refills:*2
15. Outpatient Lab Work
Weekly CBC X 6 weeks. (start ___  
Dr. ___  
___ ___ 
Office ___
ICD-9-CM Diagnosis Code ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
- Myasthenia ___

Secondary:
- Thymoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were evaluated at ___ for 
your chief complaint of difficulty walking for more than a few 
minutes without progressive pain in the lower extremities, which 
has progressed to your arms over the past few days.  

We performed an EMG study to further evaluate your muscle 
weakness, as on examination we noted a fatiguable quality.  The 
set of tests which were performed were strongly suggestive of 
Myasthenia ___ for which we sent a series of blood tests.  We 
also performed a CT scan of the chest as a tumor known as a 
Thymoma can be associated with the symptoms that you describe.  
We identified a mass concerning for this type of tumor in your 
chest, for which we consulted our thoracic surgery team to 
perform an evaluation of you as a surgical candidate to remove 
the Thymoma.

We also consulted our Neuromuscular diseases team to assess you 
for any preliminary tests or steps that were necessary to 
perform prior to clearance for your surgical procedure.
WE started you on Mestinon and Cellcept for diagnosis of 
Myesthenia ___. You should take these medications as 
directed. You have to make an appointment in 4 weeks with 
neuromuscular. 
You also need weekly blood draws: This can start on ___ this 
will check your CBC while you are on the cellcept. The results 
can faxed to Dr ___.
 
Followup Instructions:
___